US06303347B1
In the same manner as described in Example 2-(5), L-serine benzyl ester (250 mg, 1.08 mmol) was acylated with (R)-3-decanoyloxytetradecanoic acid (478 mg, 1.2 mmol) in the presence of EDC·MeI (357 mg, 1.2 mmol) in CH2Cl2 to afford 0.52 g (84%) of N-[(R)-3-heptanoyloxytetradecanoyl]-L-serine benzyl ester: mp 52-53° C.; 1H NMR (CDCl3) δ 0.87 (t, 6H, J=6.9 Hz), 1.1-1.7 (m, 34H), 2.29 (t, 2 H, J=7.5 Hz), 2.49 (d, 2H, J=5.8 Hz), 3.67 (s, 1H), 3.97 (m, 2H), 4.63 (m, 1H), 5.19 (m, 3H), 6.61 (d, 1H, J=7.1 Hz), 7.35 (brs, 5H).

reactant | L-serine benzyl ester | 1.08 mmol, 250 mg | C(C1=CC=CC=C1)OC([C@@H](N)CO)=O | C10H13NO3
reactant | (R)-3-decanoyloxytetradecanoic acid | 1.2 mmol, 478 mg | C(CCCCCCCCC)(=O)O[C@@H](CC(=O)O)CCCCCCCCCCC | C24H46O4
reactant | EDC·MeI | 1.2 mmol, 357 mg | C(CCl)Cl.CI
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | N-[(R)-3-heptanoyloxytetradecanoyl]-L-serine benzyl ester | 0.52 g, 84% | C(C1=CC=CC=C1)OC([C@@H](NC(C[C@@H](CCCCCCCCCCC)OC(CCCCCC)=O)=O)CO)=O | C31H51NO6
